data/my_data/train.txt
[CH3:1][CH2:2][O:3][C:4](=[O:5])[NH:6][N:7]([C:8](=[O:9])[O:10][CH2:11][CH3:12])[P+:13]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[c:30]1[cH:35][cH:34][cH:33][cH:32][cH:31]1.[CH3:36][CH:37]([CH3:38])[c:39]1[cH:40][c:41]([O-:42])[cH:43][c:44]2[c:45]1[C:46](=[O:47])[N:48]([c:49]1[c:50]([F:51])[c:52]([F:53])[n:54][c:55]([F:56])[c:57]1[F:58])[S:59]2(=[O:60])=[O:61].[CH3:16][CH:15]([CH3:17])[OH:14]>>[CH3:1][CH2:2][O:3][C:4](=[O:5])[NH:6][N:7]([C:8](=[O:9])[O:10][CH2:11][CH3:12])[P:13]([OH+:14][CH:15]([CH3:16])[CH3:17])([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1.[CH3:36][CH:37]([CH3:38])[c:39]1[cH:40][c:41]([O-:42])[cH:43][c:44]2[c:45]1[C:46](=[O:47])[N:48]([c:49]1[c:50]([F:51])[c:52]([F:53])[n:54][c:55]([F:56])[c:57]1[F:58])[S:59]2(=[O:60])=[O:61]
[C:29](=[N:30][CH:31]1[CH2:32][CH2:33][CH2:34][CH2:35][CH2:36]1)([NH:37][CH:38]1[CH2:39][CH2:40][CH2:41][CH2:42][CH2:43]1)[O:44][C:45](=[O:46])[c:47]1[cH:48][cH:49][c:50]2[cH:51][cH:52][nH:53][c:54]2[cH:55]1.[CH3:1][SiH:2]([CH3:3])[O:4][c:5]1[c:6]([C:7]([CH3:8])([CH3:9])[CH3:10])[cH:11][cH:12][c:13]([NH2:14])[c:15]1[NH:16][C:17](=[O:18])[c:19]1[cH:20][cH:21][c:22]([C:23]([CH3:24])([CH3:25])[CH3:26])[cH:27][cH:28]1>>[CH3:1][SiH:2]([CH3:3])[O:4][c:5]1[c:6]([C:7]([CH3:8])([CH3:9])[CH3:10])[cH:11][cH:12][c:13]([NH2+:14][C:45]([O:44][C:29](=[N:30][CH:31]2[CH2:32][CH2:33][CH2:34][CH2:35][CH2:36]2)[NH:37][CH:38]2[CH2:39][CH2:40][CH2:41][CH2:42][CH2:43]2)([O-:46])[c:47]2[cH:48][cH:49][c:50]3[cH:51][cH:52][nH:53][c:54]3[cH:55]2)[c:15]1[NH:16][C:17](=[O:18])[c:19]1[cH:20][cH:21][c:22]([C:23]([CH3:24])([CH3:25])[CH3:26])[cH:27][cH:28]1
[CH3:1][O:2][c:3]1[cH:4][c:5](=[O:6])[n:7]([CH2:8][c:9]2[n:10][c:11]3[cH:12][c:13]([CH2:14][NH2+:15][C:16](=[O:17])[O-:18])[cH:19][cH:20][c:21]3[n:22]2[CH2:23][CH2:24][CH2:25][CH2:26][OH:27])[c:28]2[cH:29][cH:30][cH:31][cH:32][c:33]12.C[C+](C)C.O>>[C:16](=[O:17])=[O:18].[CH3:1][O:2][c:3]1[cH:4][c:5](=[O:6])[n:7]([CH2:8][c:9]2[n:10][c:11]3[cH:12][c:13]([CH2:14][NH2:15])[cH:19][cH:20][c:21]3[n:22]2[CH2:23][CH2:24][CH2:25][CH2:26][OH:27])[c:28]2[cH:29][cH:30][cH:31][cH:32][c:33]12.C[C+](C)C.O
[O:1]=[C:2]([Cl:3])[O:16][CH2:17][C:18]([Cl:19])([Cl:20])[Cl:21].[NH2:4][c:5]1[cH:15][cH:14][c:8](-[n:9]2[cH:10][cH:11][cH:12][n:13]2)[cH:7][cH:6]1>>[O-:1][C:2]([Cl:3])([NH2+:4][c:5]1[cH:6][cH:7][c:8](-[n:9]2[cH:10][cH:11][cH:12][n:13]2)[cH:14][cH:15]1)[O:16][CH2:17][C:18]([Cl:19])([Cl:20])[Cl:21]
[N:2]#[C:3][c:4]1[cH:5][cH:6][c:7]([C:8]([F:9])([F:10])[F:11])[cH:12][c:13]1[NH2+:14][S:15]([NH2:16])(=[O:18])([O-:17])[Cl:1]>>[Cl-:1].[N:2]#[C:3][c:4]1[cH:5][cH:6][c:7]([C:8]([F:9])([F:10])[F:11])[cH:12][c:13]1[NH2+:14][S:15]([NH2:16])(=[O:17])=[O:18]
[N:27]#[C:26][c:25]1[cH:24][cH:23][cH:22][cH:21][c:20]1[O:19][c:18]1[cH:17][cH:16][c:15]([NH:7][CH2:8][c:9]2[cH:10][cH:11][cH:12][n:13][cH:14]2)[cH:29][cH:28]1.[CH3:1][CH2:2][S:3](=[O:4])(=[O:5])[Cl:6]>>[CH3:1][CH2:2][S:3](=[O:4])([O-:5])([Cl:6])[NH+:7]([CH2:8][c:9]1[cH:10][cH:11][cH:12][n:13][cH:14]1)[c:15]1[cH:16][cH:17][c:18]([O:19][c:20]2[cH:21][cH:22][cH:23][cH:24][c:25]2[C:26]#[N:27])[cH:28][cH:29]1
[Cl:1][c:2]1[cH:3][cH:4][cH:5][cH:6][c:7]1-[c:8]1[cH:9][cH:10][cH:11][c:12]2[c:13]1[O:14][CH:15]([CH2:16][N:17]1[N:39]=[N:40][P:18]1([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)([c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)[c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1)[CH2:37][O:38]2.[OH2:41]>>[Cl:1][c:2]1[cH:3][cH:4][cH:5][cH:6][c:7]1-[c:8]1[cH:9][cH:10][cH:11][c:12]2[c:13]1[O:14][CH:15]([CH2:16][N:17]=[P:18]([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)([c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)[c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1)[CH2:37][O:38]2.[N:39]#[N:40].[OH2:41]
[O-:1][C:2](=[O:3])[NH+:4]1[CH2:5][CH2:6][N:7]([c:8]2[cH:9][cH:10][c:11]3[cH:12][c:13]([Cl:14])[cH:15][cH:16][c:17]3[n:18]2)[CH2:19][CH2:20]1.C[C+](C)C.O>>[NH:4]1[CH2:5][CH2:6][N:7]([c:8]2[cH:9][cH:10][c:11]3[cH:12][c:13]([Cl:14])[cH:15][cH:16][c:17]3[n:18]2)[CH2:19][CH2:20]1.[O:1]=[C:2]=[O:3].C[C+](C)C.O
[CH3:1][CH:2]([CH3:3])[O:4][C:5](=[O:6])[c:7]1[cH:8][cH:9][cH:10][n:11][c:12]1[N:13]1[CH2:14][CH2:15][C@H:16]([NH+:17]([C:18](=[O:19])[O:20][C:21]([CH3:22])([CH3:23])[CH3:24])[CH3:25])[CH2:26]1.[I-:27]>>[CH3:1][CH:2]([CH3:3])[O:4][C:5](=[O:6])[c:7]1[cH:8][cH:9][cH:10][n:11][c:12]1[N:13]1[CH2:14][CH2:15][C@H:16]([N:17]([C:18](=[O:19])[O:20][C:21]([CH3:22])([CH3:23])[CH3:24])[CH3:25])[CH2:26]1.[IH:27]
[NH2+:1]([OH:2])[C:3]1([O-:4])[CH2:5][CH:6]([CH2:7][CH2:8][CH2:9][N:10]2[CH2:11][CH2:12][N:13]([c:14]3[cH:15][cH:16][c:17]([F:18])[cH:19][cH:20]3)[CH2:21][CH2:22]2)[S:23](=[O:24])(=[O:25])[c:26]2[cH:27][cH:28][cH:29][cH:30][c:31]21.[OH3+]>>[NH:1]([OH:2])[C:3]1([OH:4])[CH2:5][CH:6]([CH2:7][CH2:8][CH2:9][N:10]2[CH2:11][CH2:12][N:13]([c:14]3[cH:15][cH:16][c:17]([F:18])[cH:19][cH:20]3)[CH2:21][CH2:22]2)[S:23](=[O:24])(=[O:25])[c:26]2[cH:27][cH:28][cH:29][cH:30][c:31]21.[OH3+]
